US07053089B2
{4-[(3-Methoxy-pyrazin-2-ylamino)-methyl]-piperidin-1-yl}-((1R,2R)-2-phenyl-cyclopropyl)-methanone
A mixture of 4-[(3-methoxy-pyrazin-2-ylamino)-methyl]-piperidine (0.093 g, 0.00042 mol), 1-hydroxybenzotriazole (0.078 g, 0.0005 mol), 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (0.097 g, 0.0005 mole) and (1R,2R)-2-phenylcyclopropropanecarboxylic acid (T. Riley et al., J. Med. Chem., 15, 1187, 1972) (0.072 g, 0.00044 mol) in DMF (2 mL) were stirred at rt for 18 h. The reaction was diluted with ethyl acetate (30 mL), washed with 10% aqueous sodium bicarbonate (20 mL) followed by brine (10 mL), concentrated in vacuo and chromatographed on silica using 50–100% ethyl acetate/hexane. Crystallization from ether/hexane gave the title compound. M.S.(M+1): 367.

reactant | 4-[(3-methoxy-pyrazin-2-ylamino)-methyl]-piperidine | 0.00042 mol, 0.093 g | COC=1C(=NC=CN1)NCC1CCNCC1 | C11H18N4O
reactant | 1-hydroxybenzotriazole | 0.0005 mol, 0.078 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 0.0005 mole, 0.097 g | Cl.C(C)N=C=NCCCN(C)C
reactant | DMF | 2 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | 30 mL | C(C)(=O)OCC | C4H8O2
product | {4-[(3-Methoxy-pyrazin-2-ylamino)-methyl]-piperidin-1-yl}-((1R,2R)-2-phenyl-cyclopropyl)-methanone | COC=1C(=NC=CN1)NCC1CCN(CC1)C(=O)[C@H]1[C@@H](C1)C1=CC=CC=C1 | C21H26N4O2
